US04125732
2-(p-chlorophenoxy)ethanol O-methanesulfonate
To a solution of 61.3 g of 2-(p-chlorophenoxy)ethanol, 73.5 ml of triethylamine and 900 ml of dichloromethane chilled at -10° C. is added dropwise a solution of 30.2 ml of methanesulfonyl chloride in 60 ml of dichloromethane. The mixture is stirred at -8° C. for 1 hour and worked up as described in Example 11 to give the product as a white solid. A dried sample of product melted at 75°-77° C.

reactant | 2-(p-chlorophenoxy)ethanol | 61.3 g | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
reactant | triethylamine | 73.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 30.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | 2-(p-chlorophenoxy)ethanol O-methanesulfonate | CS(=O)(=O)OCCOC1=CC=C(C=C1)Cl | C9H11ClO4S
